US04623649
Under argon, 2.80 g (13.5 mmol) of 4-benzylindole is refluxed for 15 hours with 7.48 g (18 mmol) of a 50% strength solution of 4-methoxy-3-hydroxy-2-nitrobutyric acid ethyl ester in 84 ml of toluene with 8.3 ml of glacial acetic acid. After cooling, the reaction mixture is diluted with ethyl acetate and washed with water. The organic phase is dried, filtered, and concentrated, and the residue is chromatographed over silica gel with methylene chloride as the eluent, thus producing 4.7 g (87%) of 3-(4-benzylindol-3-yl)-2-nitro-5-oxahexanoic acid ethyl ester, which latter is hydrogenated in 50 ml of ethanol with 4.7 g of Raney nickel B 115-Z under normal pressure and at room temperature. After separation of the catalyst and evaporation, the product is chromatographed over silica gel with methylene chloride:ethanol=10:1, thus obtaining 1.16 g (24%) of 2-amino-3-(4-benzylindol-3-yl)-5-oxahexanoic acid ethyl ester; this product is combined with 349 mg of glyoxylic acid hydrate in 4 ml of ethyl acetate and 4 ml of water, adjusted to pH 4 with 10% potassium carbonate solution, and stirred overnight at room temperature. After the ethyl acetate has been removed by distillation, the product is diluted with water, extracted with methylene chloride, and the organic phase is dried, filtered, and concentrated, thus obtaining 1.7 g of a crude product which, without further purification, is refluxed in 40 ml of xylene for 5 hours. After concentration, the mixture is taken up in 40 ml of dimethyl sulfoxide, combined with 200 mg of sulfur, and heated for 75 minutes to 140° C. After the dimethyl sulfoxide has been removed by distillation, the mixture is chromatographed twice over silica gel, first with methylene chloride:ethanol=10:1 and then again with hexane:acetone=1:1, yielding 45 mg of 5-benzyl-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester, mp 160°-168° C.

reactant | 4-benzylindole | 13.5 mmol, 2.80 g | C(C1=CC=CC=C1)C1=C2C=CNC2=CC=C1 | C15H13N
reactant | 4-methoxy-3-hydroxy-2-nitrobutyric acid ethyl ester | C(C)OC(C(C(COC)O)[N+](=O)[O-])=O | C7H13NO6
reactant | acetic acid | 8.3 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 84 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-benzylindol-3-yl)-2-nitro-5-oxahexanoic acid ethyl ester | 4.7 g, 87% | C(C)OC(C(C(COC)C1=CNC2=CC=CC(=C12)CC1=CC=CC=C1)[N+](=O)[O-])=O | C22H24N2O5
